US08236801B2
B.3.2 Synthesis of N-[(1R,3S,4S)-1-(2-Aza-bicyclo[2.2.1]hept-3-yl)methyl]-2,2,2-trifluoro-acetamide (hydrochloride salt)
A solution of HCl in dioxane (4 M, 40 mL) is added to a solution of (1R,3S,4S)-3-[(2,2,2-trifluoro-acetylamino)-methyl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (12.0 mmol) in dioxane (15 mL). After 3 h the solvents are removed in vacuo to give the desired product as a brownish solid which is used without further purification in the next step. LC-MS (basic): tR=0.69 min; [M+H]+=223.2.

reactant | HCl | Cl | ClH
reactant | (1R,3S,4S)-3-[(2,2,2-trifluoro-acetylamino)-methyl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 12.0 mmol | C(C)(C)(C)OC(=O)N1[C@@H]2CC[C@H]([C@H]1CNC(C(F)(F)F)=O)C2 | C14H21F3N2O3
solvent | dioxane | 4 M, 40 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | N-[(1R,3S,4S)-1-(2-Aza-bicyclo[2.2.1]hept-3-yl)methyl]-2,2,2-trifluoro-acetamide | [C@@H]12N[C@@H]([C@@H](CC1)C2)CNC(C(F)(F)F)=O | C9H13F3N2O
